US08669234B2
4-[2-(1-tert-Butoxycarbonyl-pyrrolidin-2-yl)-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazol-4-yl]-piperidine-1-carboxylic acid benzyl ester (2.8 g, 6.1 mmol) in EtOH (60 mL) was treated with 20% PdOH/C (600 mg) and placed under an atmosphere of H2. The reaction was stirred for 18 hours and filtered through a CELITE plug to afford crude 2-[5-piperidin-4-yl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (2.0 g), which was used without further purification: MS (ESI) m/z 451 [M+H]+.

reactant | 4-[2-(1-tert-Butoxycarbonyl-pyrrolidin-2-yl)-3-(2-trimethylsilanyl-ethoxymethyl)-3H-imidazol-4-yl]-piperidine-1-carboxylic acid benzyl ester | 6.1 mmol, 2.8 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=1N(C(=NC1)C1N(CCC1)C(=O)OC(C)(C)C)COCC[Si](C)(C)C | C31H48N4O5Si
solvent | EtOH | 60 mL | CCO | C2H6O
product | 2-[5-piperidin-4-yl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.0 g | C(C)(C)(C)OC(=O)N1C(CCC1)C=1N(C(=CN1)C1CCNCC1)COCC[Si](C)(C)C | C23H42N4O3Si
